US05438052
4-(4-Chloro-2-phenyl-5-pyrimidinyl)-o-phenylene diacetate (6.0 g) (15.7 mmol) are suspended in 200 ml of methanol. 10 g of sodium hydrogen sulphide hydrate are added at 50° C. while stirring. After a further 4 hours at 60° C. the mixture is filtered and the filtrate is concentrated. The residue is dissolved in about 150 ml of water and the solution is brought to pH 5 with 1N aqueous hydrochloric acid. The precipitated product is filtered off under suction, washed with water, dried at room temperature and crystallized from ethanol. There are obtained 3.6 g of 5-(3,4-dihydroxyphenyl)-2-phenyl-4(3H)-pyrimidinethione as yellow crystals of m.p. 220° C.

reactant | 4-(4-Chloro-2-phenyl-5-pyrimidinyl)-o-phenylene diacetate | 15.7 mmol, 6.0 g | C(C)(=O)OC1=C(C=C(C=C1)C=1C(=NC(=NC1)C1=CC=CC=C1)Cl)OC(C)=O | C20H15ClN2O4
reactant | sodium hydrogen sulphide hydrate | 10 g | O.S.[Na]
solvent | methanol | 200 ml | CO | CH4O
product | 5-(3,4-dihydroxyphenyl)-2-phenyl-4(3H)-pyrimidinethione | 3.6 g | OC=1C=C(C=CC1O)C=1C(NC(=NC1)C1=CC=CC=C1)=S | C16H12N2O2S
